US06093718
To a solution of N-benzyloxycarbonyl isonipecotic acid (123.64 g) in tetrahydrofuran (300 ml) at 0° C. was added a solution of carbonyldiimidazole (68.80 g) in tetrahydrofuran (500 ml) and dichloromethane (300 ml). The resulting solution was stirred at ambient temperature for 2 hours. This solution was cooled to 0° C. and a solution of 1-(tert-butoxycarbonyl)piperazine (87.02 g) in tetrahydrofuran (200 ml) added dropwise over 20 minutes. The suspension obtained was stirred at ambient temperature for 48 hours. Solvent was evaporated. The residue was dissolved in diethyl ether/dichloromethane (1500 ml) and washed with water, 2M aqueous citric acid solution, saturated aqueous sodium bicarbonate solution, dried (Na2SO4) and evaporated to give 1-(tert-butoxycarbonyl)-4-[1-(benzyloxycarbonyl)4-piperidylcarbonyl]piperazine (180.00 g) as a solid.

reactant | N-benzyloxycarbonyl isonipecotic acid | 123.64 g | C(C1=CC=CC=C1)OC(=O)N1CCC(C(=O)O)CC1 | C14H17NO4
reactant | carbonyldiimidazole | 68.80 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1-(tert-butoxycarbonyl)piperazine | 87.02 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 1-(tert-butoxycarbonyl)-4-[1-(benzyloxycarbonyl)4-piperidylcarbonyl]piperazine | 180.00 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C23H33N3O5
